US08349824B2
Nitrogen is bubbled for 10 minutes through a mixture of tert-butyl 2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate (1.39 g, 4.44 mmol) and pyridin-3-ylboronic acid (818 mg, 6.66 mmol) in dioxane (23.8 ml) and sat. aqueous sodium carbonate sol. (5.94 ml), then 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride (181 mg, 222 μmol) is added and the resulting mixture is fluxed for 18 hours under nitrogen atmosphere. The residue is diluted with dichloromethane and washed with water; the organic layer is separated, dried with magnesium sulfate and the solvent is removed under reduced pressure. The residue is loaded on silicagel and purified by chromatography on a 50 g silica column using heptane/ethyl acetate 50-100% as eluent affording tert-butyl 2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate (762 mg, 55.1%) as a light brown foam. MS: m/z=312.4 (M+H+).

reactant | tert-butyl 2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate | 4.44 mmol, 1.39 g | BrC1=NN2C(C=C(C=C2)NC(OC(C)(C)C)=O)=N1 | C11H13BrN4O2
reactant | pyridin-3-ylboronic acid | 6.66 mmol, 818 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | dioxane | 23.8 ml | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 5.94 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride | 222 μmol, 181 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | tert-butyl 2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate | 762 mg, 55.1% | N1=CC(=CC=C1)C1=NN2C(C=C(C=C2)NC(OC(C)(C)C)=O)=N1 | C16H17N5O2
